US04873253
An inhibitor sample is dissolved in a 0.05 M Tris-hydrochloric acid buffer solution (pH=7.8) to make the total volume to 400 μl. To this solution, 50 μl of a 2 mM S-2302 solution is added and the mixture is incubated at a temperature of 37° C. for 5 minutes in a constant temperature bath. Then, 50 μl of a 0.12 unit/ml human plasma kallikrein is added and the mixture is incubated at a temperature of 37° C. for 5 minutes. Thereafter, 50 μl of 50% acetic acid is added to terminate the reaction. The absorbance of the p-nitroaniline formed in the reaction mixture is measured at 405 nm. Thus, the concentration I50 (μmol) of the inhibitor sample, at which the absorbance is one half (i.e., 1/2) of that obtained in the absence of the inhibitor sample, is determined.

reactant | S-2302 | 2 mM | C1C[C@@H](NC1)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NC(=O)[C@H](CCCN=C(N)N)NC3=CC=C(C=C3)[N+](=O)[O-] | C26H34N8O5
reactant | acetic acid | 50 μl | C(C)(=O)O | C2H4O2
solvent | Tris hydrochloric acid | 0.05 M, pH=7.8 | C(C(CO)(CO)N)O.Cl
product | p-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
